Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
This is a ___ year old female with a PMH oh hypertension, who is
admitted for a sudden onset of retrosternal chest pain. Patient
stated that the pain started at rest, it was severe and  was
associated with SOB, nausea, dizziness and sweating.  It lasted
for 45 minutes until she arrived to the ED. At the ED, code 
STEMI
was activated due to the findings in the EKG and she was given
aspirin, sublingual nitroglycerin and morphine. Troponin was
negative. Patient was evaluated for cardiology at the bedside.
They requested adenosine and the patient's heart rate did 
improve
as well as her symptoms. Code STEMI was canceled with a plan to
admit the patient to the ___ service. Patient recently 
underwent
a total knee replacement surgery (___) that was complicated
with an infection requiring antibiotic treatment.

In the ED initial vitals were:  
Temp: 98.2 HR: 150 BP: 132/96 Resp: 20 O2 Sat: 100 Normal

 
Past Medical History:
PAST MEDICAL HISTORY:
- HTN
- asthma
- sarcoidosis
- GERD
- anxiety/depression
 
Social History:
___
Family History:
Grandmother and father with MI at older age
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
 
VS: T 98.6 BP 96/61 HR 79 RR 18 O2 SAT 97 RA  
GENERAL: Well developed. Oriented x3. Mood, affect appropriate.  

HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. NO JVP  
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops.   
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Non-tender, non-distended. 
EXTREMITIES: Swollen left lower with intact suture line. Distal
pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM:
Tele:  NSR. no events. 
VS:  0750 98.4 107/69 55 20 100 Ra 
Weight: no weight on admission  
GENERAL: WDWN. Pleasant. Obese. in NAD. Oriented x3. Mood, 
affect appropriate.   
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no JVD.   
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits. L knee mildly 
edematous with surrounding light pink erythema within the lines 
of skin marker, sutures intact and incision c/d/I. 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  2+ peripheral pulses 

 
Pertinent Results:
PERTINENT LAB RESULTS:
========================

___ 06:15AM BLOOD WBC-5.2 RBC-4.54 Hgb-10.8* Hct-34.8 
MCV-77* MCH-23.8* MCHC-31.0* RDW-17.1* RDWSD-46.6* Plt ___
___ 02:05PM BLOOD WBC-7.3 RBC-5.23* Hgb-12.1 Hct-39.3 
MCV-75*# MCH-23.1*# MCHC-30.8* RDW-16.4* RDWSD-44.2 Plt ___
___ 02:05PM BLOOD Neuts-72.6* Lymphs-16.9* Monos-7.8 
Eos-1.5 Baso-0.7 Im ___ AbsNeut-5.32 AbsLymp-1.24 
AbsMono-0.57 AbsEos-0.11 AbsBaso-0.05
___ 02:05PM BLOOD Glucose-107* UreaN-14 Creat-0.7 Na-136 
K-3.0* Cl-98 HCO3-21* AnGap-20
___ 06:15AM BLOOD Glucose-104* UreaN-13 Creat-0.6 Na-139 
K-3.4 Cl-102 HCO3-25 AnGap-15
___ 06:15AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a recent left total 
knee arthroplasty (___) who presented with acute onset of 
substernal chest tightness and tachycardia accompanied by nausea 
and diaphoresis. 

ACUTE ISSUES
================
# Supraventricular Tachycardia
Likely AV NRT in the setting left lower extremity infection. 
Started on metoprolol 6.25 Q6H on ___. No events on tele after 
adenosine. The new ome dose of metoprolol will be succinate 25mg 
PO at bedtime. She will F/u with Dr. ___ outpatient in ___ 
clinic 

# s/p L knee arthroplasty
Patient at risk of DVT with recent surgery. Her left lower 
extremity was evaluated for DVT this week as it has been 
persistently swollen. Study was negative for DVT. Postop 
complicated by infection that has required antibiotic 
management. Continue prophylaxis with enoxaparin. Continue 
antibiotic management with ciprofloxacin and Keflex (infection 
has been improving since cipro was added, per pt). 

TRANSITIONAL ISSUES
====================== 
-PATIENT CONTACT INFO: ___ (Cell)
-HCP CONTACT: HCP: brother, ___, ___ cell

[] Metoprolol is a new med (metop succinate 25 PO). Pt's current 
HTN meds are Lisinopril 40 daily and chlorthalidone 25 daily. We 
have advised her to take the metop in the evening before 
bedtime. Please follow up BPs outpatient and adjust meds if 
needed.
[] Pt will follow up with Dr. ___ in ___ 
clinic.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Chlorthalidone 25 mg PO DAILY 
3. Sertraline 150 mg PO DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO Q6H 
5. Ciprofloxacin HCl 500 mg PO Q24H 
6. Omeprazole 20 mg PO DAILY 
7. Enoxaparin Sodium 40 mg SC ONCE 
Start: ___, First Dose: Next Routine Administration Time 
8. Cephalexin 500 mg PO Q6H 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO QHS 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
2.  Enoxaparin Sodium 40 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
3.  Cephalexin 500 mg PO Q6H  
4.  Chlorthalidone 25 mg PO DAILY  
5.  Ciprofloxacin HCl 500 mg PO Q24H  
6.  Lisinopril 40 mg PO DAILY  
7.  Omeprazole 20 mg PO DAILY  
8.  OxyCODONE (Immediate Release) 5 mg PO Q6H  
9.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary diagnoses:
# supraventricular tachycardia
# chest pain

secondary diagnoses:
# soft tissue infection of knee (s/p L knee arthtoplasty)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane). -- just had L knee surgery on ___

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure caring for you at ___.

Why was I here?
-You were here because you had a very fast heart rate causing 
chest pain.  

What was done while I was here?
-You were given a medicine called adenosine to get your heart 
rate back to normal.
-You were started on a new medication called metoprolol. (Please 
see med list below). 

What should I do when I go home?
-Please review the medication list below for any changes.
-Please follow up with your PCP.
-You will follow up with Dr. ___ for your heart (see 
information below). 

We wish you the best!

Sincerely,

Your ___ Medicine Team 

 
Followup Instructions:
___